### PR TITLE
[Merged by Bors] - feat: port Data.Fintype.BigOperators

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 1]
```diff
@@ -0,0 +1,306 @@
...
+theorem prod_eq_mul {f : α → M} (a b : α) (h₁ : a ≠ b) (h₂ : ∀ x, x ≠ a ∧ x ≠ b → f x = 1) :
+    (∏ x, f x) = f a * f b := by
+  apply Finset.prod_eq_mul a b h₁ fun x _ hx => h₂ x hx <;>
+    exact fun hc => (hc (Finset.mem_univ _)).elim
+#align fintype.prod_eq_mul Fintype.prod_eq_mul
+#align fintype.sum_eq_add Fintype.sum_eq_add
+
+/-- If a product of a `Finset` of a subsingleton type has a given
+value, so do the terms in that product. -/
+@[to_additive "If a sum of a `finset` of a subsingleton type has a given
```
Comment (ChrisHughes24) [inline Mathlib/Data/Fintype/BigOperators.lean:97]:
```suggestion
@[to_additive "If a sum of a `Finset` of a subsingleton type has a given
```

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 2]
```diff
@@ -0,0 +1,306 @@
...
+theorem Finset.prod_attach_univ [Fintype α] [CommMonoid β] (f : { a : α // a ∈ @univ α _ } → β) :
+    (∏ x in univ.attach, f x) = ∏ x, f ⟨x, mem_univ _⟩ :=
+  Fintype.prod_equiv (Equiv.subtypeUnivEquiv fun x => mem_univ _) _ _ fun x => by simp
+#align finset.prod_attach_univ Finset.prod_attach_univ
+#align finset.sum_attach_univ Finset.sum_attach_univ
+
+/-- Taking a product over `univ.pi t` is the same as taking the product over `Fintype.piFinset t`.
+  `univ.pi t` and `Fintype.piFinset t` are essentially the same `Finset`, but differ
+  in the type of their element, `univ.pi t` is a `Finset (Π a ∈ univ, t a)` and
+  `Fintype.piFinset t` is a `finset (Π a, t a)`. -/
```
Comment (ChrisHughes24) [inline Mathlib/Data/Fintype/BigOperators.lean:174]:
```suggestion
  `Fintype.piFinset t` is a `Finset (Π a, t a)`. -/
```

**Comment by ChrisHughes24** [comment]
bors merge

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 3]
```diff
@@ -142,46 +141,56 @@ theorem Fintype.card_piFinset [DecidableEq α] [Fintype α] {δ : α → Type _}
...
 @[simp]
 theorem Fintype.card_pi {β : α → Type _} [DecidableEq α] [Fintype α] [f : ∀ a, Fintype (β a)] :
-    Fintype.card (∀ a, β a) = ∏ a, Fintype.card (β a) :=
-  Fintype.card_piFinset _
+    Fintype.card (∀ a, β a) = ∏ a, Fintype.card (β a) := by
+  -- Porting note: term mode proof `Fintype.card_piFinset _` no longer works
+  unfold Fintype.card
+  erw [Fintype.card_piFinset]
+  apply Finset.prod_congr rfl
+  simp [Fintype.card]
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/BigOperators.lean:149]: This is because the mathlib3 statement is about `Finset.card` not `Fintype.card`

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 4]
```diff
@@ -0,0 +1,306 @@
...
+
+@[simp]
+theorem Finset.card_pi [DecidableEq α] {δ : α → Type _} (s : Finset α) (t : ∀ a, Finset (δ a)) :
+    (s.pi t).card = ∏ a in s, card (t a) :=
+  Multiset.card_pi _ _
+#align finset.card_pi Finset.card_pi
+
+@[simp]
+theorem Fintype.card_piFinset [DecidableEq α] [Fintype α] {δ : α → Type _} (t : ∀ a, Finset (δ a)) :
+    (Fintype.piFinset t).card = ∏ a, card (t a) := by simp [Fintype.piFinset, card_map]
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/BigOperators.lean:139]: This is a mis-port; in Lean3 the `card` on the right is `finset.card`, here it's `Fintype.card`.
